datasets/10k__Tet_Int.csv
SMILES Labelled
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C)[H]>>CCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C)[O-:10])[H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"[OH:10]C(C)/C(O)=C([C:20](OC)=[OH+:21])/O>>[OH:21][C:20]1(OC)[OH+:10]C(C)C(O)=C1O 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][S+:10](C([H])C([H])C([H])[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C([H])[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(CC)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[O:10][H].C[NH+:21]=[C:20]([NH]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C)([NH]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C(C)C(C)C(C)[O:10]1>>[O-:10]C(C)C(C)/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(C)[S]1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S]CC)[O]CC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21][H]>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C1=CC=CC=C1)[H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC>>CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O:20]=[C:21](OCC)O[H].[H][O:10][K]>>[H][O+:10]([K])[C:21]([O-:20])(OCC)O[H] 10=21;21,20=20"
"[OH:10]C(CC)/C([H])=C([C:20](OCC)=[OH+:21])/O>>[OH:21][C:20]1(OCC)[OH+:10]C(CC)C([H])=C1O 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C)[S]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])C)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CC.[Cl-:21] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C)[NH]1 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1[H])C.[O-:21][H]>>CC1C(O[C:20](N1[H])([O-:10])[O:21][H])C 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])C)[H])CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])C)[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CC)[O-:10])CCCCCC 21=20;20,10=10"
